US04226775
The preceding compound is heated with 6 N hydrochloric acid to give 3-(3,4-dichlorobenzoyl)propionic acid. As described in Example 15, 3-(3,4-dichlorobenzoyl)propionic acid, hydroxysuccinimide ester is prepared and coupled to L-proline as in Example 16. The 1-[3-(3,4-dichlorobenzoyl)propionyl]-L-proline in acetic acid is reacted with bromine as in Example 20 to give 1-[3-bromo-3-(3,4-dichlorobenzoyl)propionyl]-L-proline.

reactant | 3-(3,4-dichlorobenzoyl)propionic acid | ClC=1C=C(C(=O)CCC(=O)O)C=CC1Cl | C10H8Cl2O3
reactant | L-proline | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | 1-[3-(3,4-dichlorobenzoyl)propionyl]-L-proline | ClC=1C=C(C(=O)CCC(=O)N2[C@H](C(=O)O)CCC2)C=CC1Cl | C15H15Cl2NO4
reactant | bromine | BrBr | Br2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-[3-bromo-3-(3,4-dichlorobenzoyl)propionyl]-L-proline | BrC(CC(=O)N1[C@H](C(=O)O)CCC1)C(C1=CC(=C(C=C1)Cl)Cl)=O | C15H14BrCl2NO4
